US07576090B2
A mixture of N-(6-nitrobenzothiazol-2-yl)benzamide (3.77 g, 12.6 mmol), palladium on charcoal (2 g, 10% Pd, 1.88 mmol Pd), dimethyl formamide (80 mL) and ethyl acetate (20 mL) was hydrogenated (1 bar) for 2 h at 60° C. The palladium was removed by filtration through a pad of celite. After concentration to 20 mL, water was added and the resulting precipitate was separated by filtration to obtain N-(6-aminobenzothiazol-2-yl)-benzamide (3.15 g, 11.7 mmol, 93%) as a grey solid. LC/ESI-MS: m/z=270 [M+H]+; m/z=268 [M−H]−; Rt=2.27 min.

reactant | N-(6-nitrobenzothiazol-2-yl)benzamide | 12.6 mmol, 3.77 g | [N+](=O)([O-])C1=CC2=C(N=C(S2)NC(C2=CC=CC=C2)=O)C=C1 | C14H9N3O3S
reactant | dimethyl formamide | 80 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 1.88 mmol, 2 g | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(6-aminobenzothiazol-2-yl)-benzamide | 11.7 mmol, 3.15 g, 93% | NC1=CC2=C(N=C(S2)NC(C2=CC=CC=C2)=O)C=C1 | C14H11N3OS
